US07820683B2
Magnesium bromide (7 g, 38 mmol) was added to a solution of (5-methoxy-4-oxoquinazolin-3(4H)-yl)methyl pivalate (7.4 g, 25.5 mmol) in pyridine (25 ml). The mixture was stirred at 120° C. for one hour. After cooling, the solvents were evaporated under high vacuum. Diluted acetic acid (15 ml in 100 ml water) was added. The precipitated solid was filtered, washed with water and dried under high vacuum in the presence of P2O5 to give (5-hydroxy-4-oxoquinazolin-3(4H)-yl)methyl pivalate as a white solid (6.33 g, 90%); NMR Spectrum (CDCl3) 1.23 (s, 9H), 5.93 (s, 2H), 6.99 (d, 1H), 7.22 (d, 1H), 7.68 (t, 1H), 8.21 (s, 1H); Mass spectrum MH+ 277.

reactant | Magnesium bromide | 38 mmol, 7 g | [Br-].[Mg+2].[Br-]
reactant | (5-methoxy-4-oxoquinazolin-3(4H)-yl)methyl pivalate | 25.5 mmol, 7.4 g | C(C(C)(C)C)(=O)OCN1C=NC2=CC=CC(=C2C1=O)OC | C15H18N2O4
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | (5-hydroxy-4-oxoquinazolin-3(4H)-yl)methyl pivalate | 6.33 g, 90% | C(C(C)(C)C)(=O)OCN1C=NC2=CC=CC(=C2C1=O)O | C14H16N2O4
